US06831081B2
Ethyl 4-Hydroxy-3-methyl-2-(morpholin-4-ylmethyl)thieno[2,3-b]pyridine-5-carboxylate.
A suspension of ethyl 4-hydroxy-3-methylthieno[2,3-b]pyridine-5-carboxylate (Preparation 26, 0.92 g) and 4-methylenemorpholin-4-ium chloride (1.57 g) in acetonitrile (40 mL) is heated to 60° C. for 4 h. The resulting suspension is allowed to cool to room temperature, poured into water, and adjusted to neutral pH with saturated aq. sodium bicarbonate. The solution is extracted with CH2Cl2 (3×100 mL). The combined organic layers are washed with brine (25 mL), dried (Na2SO4), and concentrated to afford 1.26 g of the title compound as a yellow solid. Physical characteristics. M.p. 182-185° C.; 1H NMR (400 MHz, DMSO-d6) δ 8.64, 4.37, 3.70, 3.38, 2.51, 2.47, 1.35; MS (ESI−) m/z 335 (M-H). Anal. Found. C, 56.93; H, 6.10; N, 8.26; S, 9.34.

reactant | ethyl 4-hydroxy-3-methylthieno[2,3-b]pyridine-5-carboxylate | 0.92 g | OC1=C2C(=NC=C1C(=O)OCC)SC=C2C | C11H11NO3S
reactant | 4-methylenemorpholin-4-ium chloride | 1.57 g | [Cl-].C=[N+]1CCOCC1
reactant | water | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | Ethyl 4-Hydroxy-3-methyl-2-(morpholin-4-ylmethyl)thieno[2,3-b]pyridine-5-carboxylate | 1.26 g | OC1=C2C(=NC=C1C(=O)OCC)SC(=C2C)CN2CCOCC2 | C16H20N2O4S
